US07825253B2
N5-(4-Fluoro-benzyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=362.4 (M+H+), was prepared in accordance with the general method of example 1 from 5-bromo-2-chloroquinoline, 5-methyl-2-furanmethanamine and 4-fluorobenzylamine.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
product | N5-(4-Fluoro-benzyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | FC1=CC=C(CNC=2C=3C=CC(=NC3C=CC2)NCC=2OC(=CC2)C)C=C1 | C22H20FN3O
